US05532367
This compound is prepared in a manner analogous to that of Step A of Example 4, using 1.6 grams (0.008 mole) of 2-amino-3-cyano-5-bromopyrazine, 2.5 grams (0.012 mole) of 2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-ylboronic acid, 4.3 grams (0.031 mole) of potassium carbonate and 0.3 gram of tetrakis(triphenylphosphine)palladium(O) in 150 mL of toluene, yielding 2-amino-3-cyano-5-(2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-yl)pyrazine.

reactant | 2-amino-3-cyano-5-bromopyrazine | 0.008 mole, 1.6 grams | NC1=NC=C(N=C1C#N)Br | C5H3BrN4
reactant | 2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-ylboronic acid | 0.012 mole, 2.5 grams | OC1C(OC2=C1C=CC=C2B(O)O)(C)C | C10H13BO4
reactant | potassium carbonate | 0.031 mole, 4.3 grams | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.3 gram | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-amino-3-cyano-5-(2,3-dihydro-3-hydroxy-2,2-dimethylbenzofuran-7-yl)pyrazine | NC1=NC=C(N=C1C#N)C1=CC=CC=2C(C(OC21)(C)C)O | C15H14N4O2
